US04709048
(k) Preparation of (1S)-1-Ethyl-2,3,4,9-tetrahydro-4-(phenylmethyl)-1H-carbazole-1-acetic Acid Methyl Ester
This material can be prepared from (1S)-1-ethyl-2-oxo-4-(phenylmethyl)cyclohexaneacetic acid methyl ester as described in Example 2, Step (b), for racemic material by substituting phenylhydrazine for 2-ethylphenylhydrazine.

reactant | (1S)-1-ethyl-2-oxo-4-(phenylmethyl)cyclohexaneacetic acid methyl ester | COC(C[C@]1(C(CC(CC1)CC1=CC=CC=C1)=O)CC)=O | C18H24O3
reactant | 2-ethylphenylhydrazine | C(C)C1=C(C=CC=C1)NN | C8H12N2
product | (1S)-1-Ethyl-2,3,4,9-tetrahydro-4-(phenylmethyl)-1H-carbazole-1-acetic Acid Methyl Ester | COC(C[C@@]1(CCC(C=2C3=CC=CC=C3NC12)CC1=CC=CC=C1)CC)=O | C24H27NO2
